US08664452B2
360 ml sulphuric acid was added slowly to 25 ml chilled water at 10-15° C. to a round bottom flask supplied with a mechanical stirrer. To this stirred mass was charged p-hydroxy benzoic acid 100 g (0.72M) lot wise followed by Isopropyl alcohol 130 g (2.16M) at a temperature below 15° C. The reaction mass was finally heated to 60-65° C. for 4 hrs. After reaction completion the reaction mass was quenched in caustic solution and washed two times with toluene (400 ml). The aqueous layer obtained was acidified using aq. HCl solution. Precipitated solid was washed twice, each time with 250 ml of hot water and dried to obtain crude product. Crude solid was dissolved in 350 ml of methanol and treated with activated carbon, filtered and added into 1000 ml chilled water at about 10-15° C. The precipitate was filtered off and washed twice with 200 ml of water each time. After drying under vacuum at 70-75° C. up to a constant weight, 4-hydroxy-3,5-diisopropyl benzoic acid was obtained.

reactant | sulphuric acid | 360 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | p-hydroxy benzoic acid | 0.72M, 100 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | HCl | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
solvent | Isopropyl alcohol | 2.16M, 130 g | C(C)(C)O | C3H8O
product | 4-hydroxy-3,5-diisopropyl benzoic acid | OC1=C(C=C(C(=O)O)C=C1C(C)C)C(C)C | C13H18O3
